US08071586B2
B) 4-[(S)-3-((S)-4-Hydroxy-6-aza-spiro[2,5]oct-6-yl)-1-hydroxymethyl-propyl]-[1,4]diazepan-5-one
In analogy to the procedure described in intermediate 5E, 4-[(S)-3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-propyl]-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester and 0.1 eq. of 1 M aq. hydrochloric acid solution and Pd/C was hydrogenated to give the title compound in quantitative yield as a white gum. MS: 312.2 (MH+).

reactant | 4-[(S)-3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-propyl]-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(C(CC1)=O)[C@@H](CCN1C[C@H](C2(CC2)CC1)O)CO | C24H35N3O5
reactant | hydrochloric acid | 1 M, 0.1 eq. | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
product | 4-[(S)-3-((S)-4-Hydroxy-6-aza-spiro[2,5]oct-6-yl)-1-hydroxymethyl-propyl]-[1,4]diazepan-5-one | quantitative yield | O[C@H]1C2(CC2)CCN(C1)CC[C@@H](CO)N1CCNCCC1=O | C16H29N3O3
